US08461134B2
To a solution of (3-aminophenyl)methanol (12.3 g, 0.1 mol) in DCM (150 ml) and TEA (30.3 g, 0.3 mol) was added TFAA (42 g, 0.2 mmol) dropwise at 0° C. over 20 min. The mixture was stirred at 0° C.-rt for 2 hrs. The reaction mixture was washed with H2O, brine and dried over MgSO4. Filtered, concentrated in reduced pressure to dryness to give the crude 3-(2,2,2-trifluoroacetamido)benzyl 2,2,2-trifluoroacetate which can be used without further purification.

reactant | (3-aminophenyl)methanol | 0.1 mol, 12.3 g | NC=1C=C(C=CC1)CO | C7H9NO
reactant | TFAA | 0.2 mmol, 42 g | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | 3-(2,2,2-trifluoroacetamido)benzyl 2,2,2-trifluoroacetate | FC(C(=O)OCC1=CC(=CC=C1)NC(C(F)(F)F)=O)(F)F | C11H7F6NO3
